US05801180
4-(3,4-Methylenedioxybenzyl)amino-6-methylsulfinylquinazoline
A solution of 1.20 g (6.95 mmol) of m-chloroperbenzoic acid in 30 ml of chloroform was dropped into a solution of 1.80 g (5.53 mmol) of 4-(3,4-methylenedioxybenzyl)amino-6-methylthioquinazoline in 100 ml of chloroform under cooling with ice and stirring. The obtained mixture was stirred under cooling with ice for several hours, washed with a saturated aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate and filtered. The filtrate was purified by silica gel column chromatography (ethyl acetate/acetone) and recrystallized from chloroform/n-hexane to give 1.51 g of the title compound as a pale-yellow crystal.

reactant | m-chloroperbenzoic acid | 6.95 mmol, 1.20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(3,4-methylenedioxybenzyl)amino-6-methylthioquinazoline | 5.53 mmol, 1.80 g | C1OC=2C=C(CNC3=NC=NC4=CC=C(C=C34)SC)C=CC2O1 | C17H15N3O2S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3,4-Methylenedioxybenzyl)amino-6-methylsulfinylquinazoline | 1.51 g | C1OC=2C=C(CNC3=NC=NC4=CC=C(C=C34)S(=O)C)C=CC2O1 | C17H15N3O3S
